US08124641B2
To a solution of {(R)-4-[(3-ethylsulfanyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (50.6 mg, 0.10 mmol) in dichloromethane was added 3-chloro-benzenecarboperoxoic acid (m-CPBA) mg, 0.11 mmol) at 0° C. After stirring at room temperature for 3 hours, the resulting mixture was concentrated in vacuo. The residue was purified by flash column (gradient elution, 5% methanol in dichloromethane) to afford {(R)-4-[(3-ethanesulfinyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (39.6 mg, 76.2%) as a semisolid. MS cald. for C21H26F3N3O5S2 521, obsd. (ESI+) [(M+H)+] 522.

reactant | {(R)-4-[(3-ethylsulfanyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 0.10 mmol, 50.6 mg | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)SCC)=O | C21H26F3N3O4S2
reactant | 3-chloro-benzenecarboperoxoic acid | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | {(R)-4-[(3-ethanesulfinyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 39.6 mg, 76.2% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)S(=O)CC)=O | C21H26F3N3O5S2
